US04644076
This reaction proceeds slowly without diethylether but reacts faster at reflux temperatures. Trimethylsilanol is condensed during the HMDS distillation step to give HMDSO, which reacts as shown above.

reactant | Trimethylsilanol | C[Si](O)(C)C | C3H10OSi
solvent | diethylether | C(C)OCC | C4H10O
product | HMDSO | C[Si](C)(C)O[Si](C)(C)C | C6H18OSi2
